US07560551B2
A slurry of 4-phenylfuro[3,2-d]pyridazin-7-ol (0.327 g, 1.5 mmol) and pyridine (0.38 ml, 4.6 mmol) in 5 mL POCl3 was heated with a water-cooled reflux condenser with drying tube to 130° C. for 3 h. The brown solution was cooled and the reaction judged complete by LCMS. The reaction was poured onto ice with stirring. The solution was neutralized with 6 N NaOH and ice to control temperature. The resulting mixture was extracted into DCM (3×). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The solid was adsorbed onto 2 g silica gel from DCM/MeOH and dried. The material was purified by silica gel chromatography, eluting with 0-20% EtOAc/DCM to give 7-chloro-4-phenylfuro[3,2-d]pyridazine as an off-white solid. MS m/z=231 [M+H]+. Calc'd for C12H7ClN2O: 230.7.

reactant | 4-phenylfuro[3,2-d]pyridazin-7-ol | 1.5 mmol, 0.327 g | C1(=CC=CC=C1)C1=NN=C(C2=C1C=CO2)O | C12H8N2O2
reactant | pyridine | 4.6 mmol, 0.38 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-4-phenylfuro[3,2-d]pyridazine | ClC=1C2=C(C(=NN1)C1=CC=CC=C1)C=CO2 | C12H7ClN2O
